US04343804
Ethyl 4-chloro-8-methoxy-3-quinolinecarboxylate
A stirred mixture of ethyl 4-hydroxy-8-methoxyquinoline-3-carboxylate, 66.63 g (0.269 mole) and phosphorous oxychloride (350 ml) was warmed until all the solid had dissolved and then heated at reflux temperature for two hours. After cooling to below 100° C. the mixture was concentrated in a rotary evaporator. The residual oil was dissolved in 100 ml acetone and the solution poured onto an ice-water mixture (800 ml). The mixture was neutralized with 6 N sodium hydroxide solution and the solid product extracted successively with 450 ml, 250 ml and 100 ml portions of methylene chloride. The extracts were combined, washed with water, dried over anhydrous magnesium sulfate and concentrated to yield 68.16 g crude product. This crude product was dissolved in 500 ml hot toluene and filtered to remove a small quantity of insoluble material. The toluene solution was filtered through a bed of 250 g fluorisil followed by two liters of toluene and four liters of chloroform. The purified solution was concentrated to give 64.17 g of oil (89%) which crystallized to an off-white solid on cooling. The solid melted at 75°-77° C.

reactant | ethyl 4-hydroxy-8-methoxyquinoline-3-carboxylate | OC1=C(C=NC2=C(C=CC=C12)OC)C(=O)OCC | C13H13NO4
reactant | phosphorous oxychloride | 350 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-chloro-8-methoxy-3-quinolinecarboxylate | 64.17 g, 89% | ClC1=C(C=NC2=C(C=CC=C12)OC)C(=O)OCC | C13H12ClNO3
